US08026390B2
<2> The reaction described in <3> of Synthesis Example 1 was performed under the same conditions, except that the 4-methoxyphenylacetyloxymethyl difluoromethanesulfonic acid sodium salt (0.8 g) produced in <1> of Synthesis Example 4 above was used instead of the benzoyloxymethyldifluorosulfonic acid sodium salt in the reaction with diphenylmethylphenylsulfonium trifluoromethanesulfonic acid sodium salt, and thus 3.95 g (yield 95.9%) of 4-methoxyphenylacetic acid 2,2-difluoro-2-sulfoethyl ester diphenylmethylphenylsulfonium salt as shown in the following reaction scheme 9 was obtained. The structure of the product was confirmed by 1H-NMR (see FIG. 8).

reactant | 4-methoxyphenylacetyloxymethyl difluoromethanesulfonic acid sodium salt | 0.8 g | [Na+].COC1=CC=C(C=C1)CC(=O)OCC(S(=O)(=O)[O-])(F)F
reactant | diphenylmethylphenylsulfonium trifluoromethanesulfonic acid sodium salt | [Na].FC(S(=O)(=O)[O-])(F)F.C1(=CC=CC=C1)C(C1=CC=CC=C1)[SH+]C1=CC=CC=C1
product | 4-methoxyphenylacetic acid 2,2-difluoro-2-sulfoethyl ester diphenylmethylphenylsulfonium salt | 3.95 g, yield 95.9% | C1(=CC=CC=C1)C(C1=CC=CC=C1)[SH+]C1=CC=CC=C1.FC(COC(CC1=CC=C(C=C1)OC)=O)(S(=O)(=O)O)F | InChI=1S/C19H16S.C11H12F2O6S/c1-4-10-16(11-5-1)19(17-12-6-2-7-13-17)20-18-14-8-3-9-15-18;1-18-9-4-2-8(3-5-9)6-10(14)19-7-11(12,13)20(15,16)17/h1-15,19H;2-5H,6-7H2,1H3,(H,15,16,17)/p+1
